US05739351
The procedure is as described for Example 13 below, starting from 1.05 g of (3aRS,4RS,6RS,7aSR)-6-cyanomethyl-4-phenyl-2-tert-butyloxycarbonylperhydroisoindol-4-ol and 5 cm3 of a 7N solution of hydrochloric acid in dioxane, and gives 0.63 g of (3aRS,4RS,6RS,7aSR)-6-cyanomethyl-4-phenylperhydroisoindol-4-ol in the form of a thick white foam.

reactant | (3aRS,4RS,6RS,7aSR)-6-cyanomethyl-4-phenyl-2-tert-butyloxycarbonylperhydroisoindol-4-ol | 1.05 g | C(#N)CC1CC(C2CN(CC2C1)C(=O)OC(C)(C)C)(O)C1=CC=CC=C1 | C21H28N2O3
reactant | hydrochloric acid | Cl | ClH
solvent | dioxane | O1CCOCC1 | C4H8O2
product | (3aRS,4RS,6RS,7aSR)-6-cyanomethyl-4-phenylperhydroisoindol-4-ol | 0.63 g | C(#N)CC1CC(C2CNCC2C1)(O)C1=CC=CC=C1 | C16H20N2O
